US07528262B2
5-Methoxy-2-methoxymethyl-1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-1H-indole.
4-(5-Methoxy-2-methoxymethylindol-1-yl)phenol (0.43 mmol) was dissolved in N,N-dimethylformamide under N2. 1-(3-Chloropropyl)pyrrolidine (74 mg, 0.5 mmol), sodium hydride (20 mg, 60% wt dispersion in mineral oil, 0.5 mmol) and sodium iodide (75 mg, 0.5 mmol) were added, and the mixture was heated at 70° C. for 2 hours. The reaction was cooled to room temperature, diluted with water, and extracted with ethyl acetate. The organic extracts were dried over MgSO4 and concentrated. Purification by semi-prep LC-MS gave the desired product, 67.4 mg (40% yield, 2 steps). LC-MS (C24H30N2O3 calc'd 394) m/z 395 (M+H); 1H NMR (300 MHz, CDCl3) δ 7.34-7.29 (m, 2H), 7.09 (d, J=2.4 Hz, 1H), 7.04-6.98 (m, 3H), 6.82 (d, J=2.4 Hz, 1H), 6.58 (s, 1H), 4.37 (s, 2H), 4.10 (t, J=6.3 Hz, 2H), 2H), 3.86 (s, 3H), 3.28 (s, 3H), 2.69-2.64 (m, 2H), 2.58-2.54 (m, 4H), 2.11-2.01 (m, 2H), 1.83-1.79 (m, 4H).

reactant | 4-(5-Methoxy-2-methoxymethylindol-1-yl)phenol | 0.43 mmol | COC=1C=C2C=C(N(C2=CC1)C1=CC=C(C=C1)O)COC | C17H17NO3
reactant | 1-(3-Chloropropyl)pyrrolidine | 0.5 mmol, 74 mg | ClCCCN1CCCC1 | C7H14ClN
reactant | sodium hydride | 0.5 mmol, 20 mg | [H-].[Na+]
reactant | sodium iodide | 0.5 mmol, 75 mg | [I-].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-Methoxy-2-methoxymethyl-1-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]-1H-indole | 40% yield | COC=1C=C2C=C(N(C2=CC1)C1=CC=C(C=C1)OCCCN1CCCC1)COC | C24H30N2O3
